US07989454B2
To a solution of 2,3-dimethylphenol (25 g, 204 mmol) in DMSO (205 mL) was added 4-bromo-butyric acid ethyl ester (40.96 g, 210 mmol) and lithium hydride (2.0 g, 250 mmol) at room temperature. The resulting light brown solution was stirred for 2 days. Then, the reaction mixture was cooled to 0° C. and water (200 mL) was added slowly. The organic compound was extracted into hexanes (2×200 mL). The combined organic extracts were washed with brine solution (150 mL) and the organic solution was dried over anhydrous magnesium sulfate. Filtration of the drying agent and the removal of the solvent gave light brown oil. The crude mixture was purified by using a Biotage™ (40 L) column chromatography eluting with 5% ethyl acetate in hexanes to isolate 4-(2,3-dimethyl-phenoxy)-butyric acid ethyl ester (45.32 g, 94%) as a colorless oil: ES(+)-HRMS m/e calculated for C14H20O3 (M+)+ 236.1412, found 236.1419.

reactant | 2,3-dimethylphenol | 204 mmol, 25 g | CC1=C(C=CC=C1C)O | C8H10O
reactant | 4-bromo-butyric acid ethyl ester | 210 mmol, 40.96 g | C(C)OC(CCCBr)=O | C6H11BrO2
reactant | lithium hydride | 250 mmol, 2.0 g | [H-].[Li+]
reactant | water | 200 mL | O | H2O
solvent | DMSO | 205 mL | CS(=O)C | C2H6OS
product | 4-(2,3-dimethyl-phenoxy)-butyric acid ethyl ester | 45.32 g, 94% | C(C)OC(CCCOC1=C(C(=CC=C1)C)C)=O | C14H20O3
